US07501407B2
N-(2-{[6-{[2-(Acetylamino)ethyl]amino}-2-(4-chlorophenyl)-5-methylpyrimidin-4-yl]amino}ethyl)isoquinoline-3-carboxamide (46.1)
A solution of 3-isoquinoline carboxylic acid (60 μl of a 0.3M solution in NMP), HATU (60 μl of a 0.3M solution in NMP) and diisopropylethylamine (60 μl of a 0.3M solution in NMP) was shaken at ambient temperature in a well of a 96 position microtitre plate for 20 min. N-{2-[6-(2-Aminoethylamino)-2-(4-chlorophenyl)-5-methylpyrimidin-4-ylamino]-ethyl}acetamide (30 μl of a 0.3M solution in NMP) was then added and the mixture shaken for a further 12 hrs. Purification via ion exchange silica (SCX) yields the title compound.

reactant | 3-isoquinoline carboxylic acid | C1=NC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-{2-[6-(2-Aminoethylamino)-2-(4-chlorophenyl)-5-methylpyrimidin-4-ylamino]-ethyl}acetamide | NCCNC1=C(C(=NC(=N1)C1=CC=C(C=C1)Cl)NCCNC(C)=O)C | C17H23ClN6O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | N-(2-{[6-{[2-(Acetylamino)ethyl]amino}-2-(4-chlorophenyl)-5-methylpyrimidin-4-yl]amino}ethyl)isoquinoline-3-carboxamide | C(C)(=O)NCCNC1=C(C(=NC(=N1)C1=CC=C(C=C1)Cl)NCCNC(=O)C=1N=CC2=CC=CC=C2C1)C | C27H28ClN7O2
